US07906546B2
To 9.4 g (0.052 mol) of benzenesulfonyl-acetonitrile in 200 mL of DME at −50° C., 7.8 mL (0.052 mol, 1 eq) of TMEDA and 32.4 mL (0.052 mL, 1 eq) of nBuLi (1.6M in hexane) were added and stirring was continued for 45 min. To the resulting white suspension, 4.98 g (0.052 mol, 1 eq) of cyclohex-2-enone were added and the temperature was raised to −10° C. within 4 hours. The reaction mixture was poured into 180 mL of 1M HCl, extracted with EtOAc, and the combined organic phases dried over Na2SO4. Evaporation of the solvent and recrystallisation from AcOEt/Et2O yielded 8.25 g (57%) of benzenesulfonyl-(3-oxo-cyclohexyl)-acetonitrile as a racemic mixture of diastereomers, white crystals, MS: 278 (MH+) (in analogy to: E. Hatzigrigoriou, L. Wartski, Synth. Comm., 1983, 14(4), 319-235).

reactant | benzenesulfonyl-acetonitrile | 0.052 mol, 9.4 g | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
reactant | TMEDA | 0.052 mol, 7.8 mL, 1 eq | CN(C)CCN(C)C | C6H16N2
reactant | nBuLi | 1.6M, 32.4 mL, 1 eq | [Li]CCCC
reactant | cyclohex-2-enone | 0.052 mol, 4.98 g, 1 eq | C1(C=CCCC1)=O | C6H8O
reactant | HCl | 1M, 180 mL | Cl | ClH
solvent | DME | 200 mL | COCCOC | C4H10O2
product | benzenesulfonyl-(3-oxo-cyclohexyl)-acetonitrile | 8.25 g, 57% | C1(=CC=CC=C1)S(=O)(=O)C(C#N)C1CC(CCC1)=O | C14H15NO3S
